US04851526
α-[4-(1H-Imidazol-1-yl)phenyl-4-methyl-1-piperidine ethanol
Add α-(bromomethyl)-4-(1H-imidazol-1-yl)benzenemethanol (8.88 g, 33.24 mmol) to a room temperature solution of 4-methylpiperidine (11.8 mL, 99.73 mmol) in tetrahydrofuran (90mL). Stir the resultant mixture for 2.5 days and concentrate in vacuo. Chromatograph the residue on alumina (neutral, activity III, 100 g) using first methylene chloride than 2% methanol in methylene chloride as eluent. Collect the product fraction and concentrate in vacuo to give a solid. Recrystallize the solid from petroleum ether/ethyl acetate (ca. 4+1). Drying at 50° C. for 2 hr at p=1.0 mm affords the title compound.

reactant | α-(bromomethyl)-4-(1H-imidazol-1-yl)benzenemethanol | 33.24 mmol, 8.88 g | BrCC(O)C1=CC=C(C=C1)N1C=NC=C1 | C11H11BrN2O
reactant | 4-methylpiperidine | 99.73 mmol, 11.8 mL | CC1CCNCC1 | C6H13N
reactant | tetrahydrofuran | 90mL | O1CCCC1 | C4H8O
product | 4-(1H-Imidazol-1-yl)phenyl-4-methyl-1-piperidine ethanol | N1(C=NC=C1)C1=CC=C(C=C1)C1N(CCC(C1)C)CCO | C17H23N3O
